US08242130B2
In a 100 mL dry round bottom flask with reflux condenser and magnetic stirrer was placed 2-(4-hydroxy-phenyl)-pyrano[2,3-b]pyridin-4-one (1.0 g, 4.18 mmol) in EtOH (10 mL) and acetonitrile (50 mL). 2-Chloroethanol (2.05 g, 25.0 mmol) was added slowly and the reaction mixture was refluxed for 48 h. The reaction mixture was cooled to rt and concentrated under reduced pressure. The crude product was purified by column chromatography, using 2% MeOH in dichloromethane to afford 2-(4-(2-hydroxyethoxy)phenyl)-4H-pyrano[2,3-b]pyridine-4-one (380 mg, 32% yield). MS (ES) m/z: 284.94 (M+1), 283.95 (M); Mp. 157-159° C.

reactant | 2-(4-hydroxy-phenyl)-pyrano[2,3-b]pyridin-4-one | 4.18 mmol, 1.0 g | OC1=CC=C(C=C1)C1=CC(C=2C(=NC=CC2)O1)=O | C14H9NO3
reactant | 2-Chloroethanol | 25.0 mmol, 2.05 g | ClCCO | C2H5ClO
solvent | EtOH | 10 mL | CCO | C2H6O
solvent | acetonitrile | 50 mL | C(C)#N | C2H3N
product | 2-(4-(2-hydroxyethoxy)phenyl)-4H-pyrano[2,3-b]pyridine-4-one | 380 mg, 32% yield | OCCOC1=CC=C(C=C1)C1=CC(C=2C(=NC=CC2)O1)=O | C16H13NO4
